US05135937
7.6 g of crude 4-[1-hydroxycyclohex-1-yl-1-(1,2,3-triazolyl)methyl]benzonitrile is dissolved at 0° in 50 ml of dichloromethane and stirred at 0° for 1 hour with 22.7 ml of thionyl chloride. Then the mixture is concentrated to dryness under vacuum, dissolved in 50 ml of dichloromethane, stirred with 30 ml of triethylamine for 2 hours, diluted with water, extracted three times with ethyl acetate, washed with water, dried over sodium sulfate, concentrated to dryness under vacuum, and chromatographed on silica gel with hexane/ethyl acetate, thus obtaining 2.6 g of 4-[1-cyclohexylidene-1-(1,2,3-triazolyl)methyl]benzonitrile as the free base. 132-133° C.

reactant | 4-[1-hydroxycyclohex-1-yl-1-(1,2,3-triazolyl)methyl]benzonitrile | 7.6 g | OC1(CCCCC1)C(C=1N=NNC1)C1=CC=C(C#N)C=C1 | C16H18N4O
reactant | thionyl chloride | 22.7 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-[1-cyclohexylidene-1-(1,2,3-triazolyl)methyl]benzonitrile | 2.6 g | C1(CCCCC1)=C(C=1N=NNC1)C1=CC=C(C#N)C=C1 | C16H16N4
